US04159338
3-Pyridyl α-hydroxybenzyl ketone (8.15 g; 38.3 mmoles) was reacted with 7.5 g (0.1 mole) of ammonium thiocyanate in 1-propanol heated at reflux to give 4.3 g of 4-phenyl-5-(3-pyridyl)-1H-2-imidazolethiol, m.p. 317°-323° recrystallized from DMF:H2O (2:1).

reactant | 3-Pyridyl α-hydroxybenzyl ketone | 38.3 mmoles, 8.15 g | OC(C1=CC=CC=C1)C(=O)C=1C=NC=CC1 | C13H11NO2
reactant | ammonium thiocyanate | 0.1 mole, 7.5 g | [S-]C#N.[NH4+]
solvent | 1-propanol | C(CC)O | C3H8O
product | 4-phenyl-5-(3-pyridyl)-1H-2-imidazolethiol | 4.3 g | C1(=CC=CC=C1)C=1N=C(NC1C=1C=NC=CC1)S | C14H11N3S
